US04521534
9H-Imidazo[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine (8.00 g, 36.1 mmoles) was heated in dry dimethylformamide (120 mL) at 120° C. in the presence of phosphoryl chloride (10.4 g, 6.32 mL). After 2 hours, the reaction mixture was poured onto ice-water and then extracted several times with chloroform. The combined extracts were washed with water, brine, dried and evaporation of solvent gave a tan residual solid. Crystallization of the solid form toluene-hexane gave 9H-imidazo[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine-12-carboxaldehyde (3.57 g): mp 203°-205° C.; Anal. Calcd for C15H11N3O: C, 72.27% H, 4.45% N, 16.86%, Found: C, 72.08% H, 4.51% N, 16.77%.

reactant | 9H-Imidazo[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | 36.1 mmoles, 8.00 g | N=1C=CN2C1C=1N(CC3=C2C=CC=C3)C=CC1 | C14H11N3
reactant | phosphoryl chloride | 6.32 mL, 10.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 9H-imidazo[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine-12-carboxaldehyde | 3.57 g | N=1C=CN2C1C=1N(CC3=C2C=CC=C3)C=C(C1)C=O | C15H11N3O
